US07157463B2
8-Bromoisoquinoline (300 mg, 1.44 mmol) is dissolved in DMF (8.7 mL). To the solution is added Boc-piperidine boronic ester (405 mg, 1.31 mmol), dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct (58 mg, 0.079 mmol) and potassium carbonate (544 mg, 3.93 mmol). The mixture is heated to about 90° C. overnight and cooled, which is then diluted with DCM and filtered through celite. The filtrate is concentrated under vacuum to remove DCM and partitioned between EtOAc (100 mL), hexanes (100 mL) and water (100 mL). The organic fraction is concentrated and chromatographed on silica gel to give about 298 mg of 8-(1-t-butyloxycarbonyl-1,2,5,6-tetrahydropyridin-4-yl)isoquinoline (73%). EIS-MS 311.2 M+1

reactant | 8-Bromoisoquinoline | 1.44 mmol, 300 mg | BrC=1C=CC=C2C=CN=CC12 | C9H6BrN
reactant | potassium carbonate | 3.93 mmol, 544 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 8.7 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct | 0.079 mmol, 58 mg | [CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-t-butyloxycarbonyl-1,2,5,6-tetrahydropyridin-4-yl)isoquinoline | about 298 mg, 73% | C(C)(C)(C)OC(=O)N1CC=C(CC1)C=1C=CC=C2C=CN=CC12 | C19H22N2O2
